US06465493B1
Preparation 5: 2,3-Dihydro-benzofuran-6-carboxylic acid
Palladium bis(triphenylphosphine) dibromide (3 g) was added to a degassed methanolic solution (30 ml) of trifluoro-methanesulfonic acid 2,3-dihydro benzofuran-6-yl ester (5 g) and tributylamine (5 ml). The mixture was charged with carbon monoxide at 40 psi in a Berghoff pressure vessel then heated at 100° C. for 72 hours. The resulting methanolic solution of 2,3-dihydro-benzofuran-6-carboxylic acid methyl ester was treated with sodium hydroxide solution (50 ml of 2M aqueous solution) and stirred at room temperature for 18 hours. The reaction mixture was acidified to pH 1 with hydrochloric acid (5M aqueous solution) and extracted with ethyl acetate (300 ml). The ethyl acetate layer was separated and the product extracted into saturated sodium bicarbonate solution (200 ml). The sodium bicarbonate solution was acidified to pH 1 with hydrochloric acid (5M aqueous solution) and the resulting precipitate dissolved in ethyl acetate. The ethyl acetate layer was separated, dried (MgSO4) and evaporated to dryness under reduced pressure to yield the title compound (0.6 g, 20%). 1H NMR (250 MHz, CD3OD) δ: 3.20 (2H, t, J=8.6 Hz), 4.54 (2H, t, J=8.6 Hz), 7.23 (1H, d, J=8 Hz), 7.25 (1H, brs), 7.49(1H, dd, J=8 and 1 Hz).

reactant | tributylamine | 5 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | carbon monoxide | [C]=O | CO
reactant | 2,3-dihydro-benzofuran-6-carboxylic acid methyl ester | COC(=O)C1=CC2=C(CCO2)C=C1 | C10H10O3
reactant | hydrochloric acid | 5M | Cl | ClH
catalyst | Palladium bis(triphenylphosphine) dibromide | 3 g | [Br-].[Br-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd+2]
solvent | sodium hydroxide | 2M, 50 ml | [OH-].[Na+]
product | 2,3-Dihydro-benzofuran-6-carboxylic acid | 0.6 g, 20% | O1CCC2=C1C=C(C=C2)C(=O)O | C9H8O3
